US04839379
1-(4-Methanesulfonylaminophenyl)-3-azabicyclo[3.1.0]hexane-2,4dione
A solution of 1.2 ml of methanesulfonyl chloride in 10 ml of methylene chloride is stirred dropwise at room temperature into a mixture of 3 g of 1-(4-aminophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione, 90 mg of dimethylaminopyridine and 37 ml of pyridine. After it has been stirred for 16 hours, the reaction mixture is freed from solvent in vacuo. The residue is dissolved in 100 ml of water and the solution is adjusted to pH 1 with hydrochloric acid. After further stirring, the crystals are isolated by filtration and recrystallised from methanol. The title compound is obtained in the form of whitish orange crystals with a melting point of 208°-209° C. and with Rf=0.32 on thin-layer silica gel plates in the system methylene chloride/methanol (10:1).

reactant | methanesulfonyl chloride | 1.2 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | 1-(4-aminophenyl)-3-azabicyclo[3.1.0]hexane-2,4-dione | 3 g | NC1=CC=C(C=C1)C12C(NC(C2C1)=O)=O | C11H10N2O2
reactant | dimethylaminopyridine | 90 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | hydrochloric acid | Cl | ClH
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | water | 100 ml | O | H2O
solvent | pyridine | 37 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-Methanesulfonylaminophenyl)-3-azabicyclo[3.1.0]hexane-2,4dione | CS(=O)(=O)NC1=CC=C(C=C1)C12C(NC(C2C1)=O)=O | C12H12N2O4S
